US07122665B2
To a solution of [2-(3,4-dimethoxy-phenyl)-ethyl]-(6-morpholin-4-yl-9H-purin-2-yl) amine (1.16 g, 3 mmol) in dioxane (75 mL) was added bromine (0.180 mL, 3.3 mmol) in dioxane (5 mL) dropwise over a period of 1 hour. The mixture was stirred at room temperature for additional 4 hours and diluted with water (25 mL) and extracted with EtOAc. The organic phase was washed with brine, water, dried over Na2SO4. The solvent was evaporated in vacuo and solid was washed with methanol to give (8-bromo-6-morpholin-4-yl-9H-purin-2-yl)-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine as a white solid (1.05 g, 75% yield).

reactant | [2-(3,4-dimethoxy-phenyl)-ethyl]-(6-morpholin-4-yl-9H-purin-2-yl) amine | 3 mmol, 1.16 g | COC=1C=C(C=CC1OC)CCNC1=NC(=C2N=CNC2=N1)N1CCOCC1 | C19H24N6O3
reactant | bromine | 3.3 mmol, 0.180 mL | BrBr | Br2
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | (8-bromo-6-morpholin-4-yl-9H-purin-2-yl)-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | 1.05 g, 75% yield | BrC=1NC2=NC(=NC(=C2N1)N1CCOCC1)NCCC1=CC(=C(C=C1)OC)OC | C19H23BrN6O3
